US05958942
4,5-Dihydro-4-[4-(methanesulfonamido)phenylmethyl]-3H-1,4, 8b-triazaacenaphthylene-3,5-dione-hydrochloride
To a suspension of 877 mg (3.0 mmol) of 4-[4-(amino)phenylmethyl]-4,5-dihydro-3H-1,4,8b-triazaacenaphthylene-3,5-dione and 0.63 ml (4.5 mmol) of triethylamine in methylene chloride (60 ml) was added dropwise 0.30 ml (3.9 mmol) of methanesulfonyl chloride while stirring at room temperature. The mixture was stirred for 72 hours at room temperature. The solvent was distilled off. To the residue was added chloroform, washed with 1N-HCl, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: chloroform/methanol=20:1) to afford 274 mg of the desired compound (24.7%, a pale yellow solid).

reactant | 4-[4-(amino)phenylmethyl]-4,5-dihydro-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 3.0 mmol, 877 mg | NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C16H12N4O2
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.9 mmol, 0.30 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4,5-Dihydro-4-[4-(methanesulfonamido)phenylmethyl]-3H-1,4, 8b-triazaacenaphthylene-3,5-dione-hydrochloride | 274 mg | Cl.CS(=O)(=O)NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | InChI=1S/C17H14N4O4S.ClH/c1-26(24,25)19-12-7-5-11(6-8-12)10-20-16(22)13-3-2-4-15-18-9-14(17(20)23)21(13)15;/h2-9,19H,10H2,1H3;1H
